US04067720
41 g of β-chloroethyl isocyanate were added to a solution of 28.7 g of 3-hydroxy-5-ethoxy-1,2,4-thiadiazole in 500 ml of benzene and after stirring for 17 hours at 20° C, the mixture was filtered. The filtrate was evaporated to dryness and the residue was empasted with isopropyl ether and was dried to obtain 47 g of 2-(N-β-chloroethylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one melting at 82° C.

reactant | β-chloroethyl isocyanate | 41 g | ClCCN=C=O | C3H4ClNO
reactant | 3-hydroxy-5-ethoxy-1,2,4-thiadiazole | 28.7 g | OC1=NSC(=N1)OCC | C4H6N2O2S
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2-(N-β-chloroethylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one | 47 g | ClCCNC(=O)N1SC(=NC1=O)OCC | C7H10ClN3O3S
